US09421192B2
(R)-2-(4-Hydroxy-4-phenylpiperidin-1-yl)-2-phenylacetic acid
To a solution of (S)-1-phenylethyl (R)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-2-phenylacetate (0.350 g, 0.84 mmol) in dichloromethane (5 mL) was added trifluoroacetic acid (1 mL) and the mixture was stirred at room temperature for 2 hours. The volatiles were subsequently removed in vacuo and the residue was purified by reverse-phase preparative HPLC (Primesphere C-18, 20×100 mm; CH3CN—H2O-0.1% TFA) to give the title compound (as TFA salt) as a white solid (0.230 g, 88%). LCMS: Anal. Calcd. for C19H21NO3: 311. found: 312 (M+H)+.

reactant | (S)-1-phenylethyl (R)-2-(4-hydroxy-4-phenylpiperidin-1-yl)-2-phenylacetate | 0.84 mmol, 0.350 g | OC1(CCN(CC1)[C@@H](C(=O)O[C@@H](C)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H29NO3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (R)-2-(4-Hydroxy-4-phenylpiperidin-1-yl)-2-phenylacetic acid | 0.230 g, 88% | OC1(CCN(CC1)[C@@H](C(=O)O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H21NO3
